US04610983
In 75 ml of water was suspended 6.5 g of DL-glutamic acid, and 5.2 g of sodium hydroxide was added, after which the resulting mixture was cooled to -10° C. to -7° C., and a solution of 6 g of β-(2-furyl)acrylic acid chloride in 75 ml of diethyl ether was added thereto dropwise over a period of 1 hour. After the addition, the mixture thus obtained was subjected to reaction at the same temperature for 5 hours, after which the aqueous layer was separated and then adjusted to pH 5.5 with diluted hydrochloric acid. The aqueous layer was washed with two 50-ml portions of ethyl acetate, and the aqueous layer was separated. This aqueous layer was adjusted to pH 2 with diluted hydrochloric acid and then extracted with 100 ml of ethyl acetate, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure to obtain 5.5 g (yield 52%) of DL-N-[β-(2-furyl)acryloyl]glutamic acid having a melting point of 174.5°-175.5° C.

reactant | DL-glutamic acid | 6.5 g | NC(CCC(=O)O)C(=O)O | C5H9NO4
reactant | sodium hydroxide | 5.2 g | [OH-].[Na+]
reactant | β-(2-furyl)acrylic acid chloride | 6 g | O1C(=CC=C1)C=CC(=O)Cl | C7H5ClO2
solvent | water | 75 ml | O | H2O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | N-[β-(2-furyl)acryloyl]glutamic acid | yield 52% | O1C(=CC=C1)C=CC(=O)N[C@@H](CCC(=O)O)C(=O)O | C12H13NO6
